US05451601
A solution of 0.6 g of (3aR,7R,7aR)-4,4-diphenyl-7-fluoroperhydroisoindole hydrochloride and 0.51 cm3 of triethylamine in 10 cm3 of dry dichloromethane is added to a solution of 0.41 g of ethyl (2-methoxyphenyl)-acetimidate tetrafluoroborate in 10 cm3 of dry dichloromethane. The reaction mixture is refluxed for 3 hours. It is then treated, after re-equilibrating to room temperature, with 5 cm3 of a 10% aqueous solution of potassium carbonate; the organic phase is washed with 10 cm3 of distilled water, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 2 cm, height 20 cm), eluting under a nitrogen pressure of 0.6 bar with an ethyl acetate, acetic acid and water mixture (15/1/1 by volume) and collecting fractions of 25 cm3. Fractions 24 to 38 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in 40 cm3 of dichloromethane, washed with 10 cm3 of a saturated aqueous solution of potassium carbonate and then with 10 cm3 of a saturated aqueous solution of sodium chloride. The organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from isopropyl oxide. The crystals are drained and dried. 0.18 g of (3aR,7R,7aR)-4,4-diphenyl-7-fluoro-2-[1-imino-2-(2-methoxyphenyl)ethyl]perhydroisoindole is obtained in the form of white crystals, melting point 184° C., with decomposition.

reactant | (3aR,7R,7aR)-4,4-diphenyl-7-fluoroperhydroisoindole hydrochloride | 0.6 g | Cl.C1(=CC=CC=C1)C1([C@@H]2CNC[C@@H]2[C@@H](CC1)F)C1=CC=CC=C1
reactant | triethylamine | 0.51 cm3 | C(C)N(CC)CC | C6H15N
reactant | ethyl (2-methoxyphenyl)-acetimidate tetrafluoroborate | 0.41 g | F[B-](F)(F)F.COC1=C(C=CC=C1)CC(OCC)=N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | (3aR,7R,7aR)-4,4-diphenyl-7-fluoro-2-[1-imino-2-(2-methoxyphenyl)ethyl]perhydroisoindole | 0.18 g | C1(=CC=CC=C1)C1([C@@H]2CN(C[C@@H]2[C@@H](CC1)F)C(CC1=C(C=CC=C1)OC)=N)C1=CC=CC=C1 | C29H31FN2O
